US05334765
A solution of methyl 3-methoxy-4-[1-methyl-5-(2-methyl-4,4,4-trifluorobutylcarbamoyl)indol-3-ylmethyl]benzoate (0.64 g) in methanol (3.5 mL), tetrahydrofuran (3.5 mL) and water (1.3 mL) was treated with lithium hydroxide monohydrate (0.34 g). The mixture was stirred for 18 hours and the organic solvents evaporated. The resulting aqueous solution was acidified with 10% (w/v) hydrochloric acid. The white precipitate which formed was collected by filtration, washed with water and dried under vacuum to give 3-methoxy-4-[1-methyl-5-(2-methyl-4,4,4-trifluorobutylcarbamoyl)indol-3-ylmethyl]benzoic acid as a white powder (0.55 g, 88%); partial NMR (300 MHz, DMSO-d6): 1.00 (d, 3H, CHCH3) 3.21 (m, 2H, NCH2), 3.76 (s, 3H, NCH3), 3.91 (s, 3H, OCH3), 4.07 (s, 2H, CH2), 7.15 (m, 2H, ArH), 7.46 (m, 3H, ArH), 7.68 (dd, 1H, ArH), 8.10 (d, 1H, ArH), 8.44 (t, 1H, NHCO).

reactant | methyl 3-methoxy-4-[1-methyl-5-(2-methyl-4,4,4-trifluorobutylcarbamoyl)indol-3-ylmethyl]benzoate | 0.64 g | COC=1C=C(C(=O)OC)C=CC1CC1=CN(C2=CC=C(C=C12)C(NCC(CC(F)(F)F)C)=O)C | C25H27F3N2O4
reactant | lithium hydroxide monohydrate | 0.34 g | O.[OH-].[Li+]
solvent | methanol | 3.5 mL | CO | CH4O
solvent | tetrahydrofuran | 3.5 mL | O1CCCC1 | C4H8O
solvent | water | 1.3 mL | O | H2O
product | 3-methoxy-4-[1-methyl-5-(2-methyl-4,4,4-trifluorobutylcarbamoyl)indol-3-ylmethyl]benzoic acid | 0.55 g, 88% | COC=1C=C(C(=O)O)C=CC1CC1=CN(C2=CC=C(C=C12)C(NCC(CC(F)(F)F)C)=O)C | C24H25F3N2O4
